* /Users/quanyuan/Documents/LTspice/8-BitAdder/8-bit.asc
* Generated by LTspice 26.0.2 for MacOS.
V§14 N032 0 1
V§24 N036 0 0
A1 N032 0 0 N036 0 0 N033 0 XOR
A2 0 N033 0 Carry2 0 0 Sum3 0 XOR
A3 0 N032 0 N036 0 0 N038 0 AND
A4 0 N033 0 Carry2 0 0 N039 0 AND
A5 N039 0 0 N038 0 0 Carry3 0 OR
V§13 N022 0 1
V§23 N026 0 0
A6 N022 0 0 N026 0 0 N023 0 XOR
A7 0 N023 0 Carry1 0 0 Sum2 0 XOR
A8 0 N022 0 N026 0 0 N028 0 AND
A9 0 N023 0 Carry1 0 0 N029 0 AND
A10 N029 0 0 N028 0 0 Carry2 0 OR
V§12 N012 0 PULSE(0 5 0 1u 1u 10m 20m)
V§22 N016 0 PULSE(0 5 0 1u 1u 40m 80m)
A11 N012 0 0 N016 0 0 N013 0 XOR
A12 0 N013 0 Carry0 0 0 Sum1 0 XOR
A13 0 N012 0 N016 0 0 N018 0 AND
A14 0 N013 0 Carry0 0 0 N019 0 AND
A15 N019 0 0 N018 0 0 Carry1 0 OR
V§11 N001 0 PULSE(0 5 0 1u 1u 5m 10m)
V§21 N005 0 PULSE(0 5 0 1u 1u 20m 40m)
V§Carryin N006 0 0
A16 N001 0 0 N005 0 0 N002 0 XOR
A17 0 N002 0 N006 0 0 Sum0 0 XOR
A18 0 N001 0 N005 0 0 N008 0 AND
A19 0 N002 0 N006 0 0 N009 0 AND
A20 N009 0 0 N008 0 0 Carry0 0 OR
V§18 N034 0 1
V§28 N037 0 0
A21 N034 0 0 N037 0 0 N035 0 XOR
A22 0 N035 0 Carry6 0 0 Sum7 0 XOR
A23 0 N034 0 N037 0 0 N040 0 AND
A24 0 N035 0 Carry6 0 0 N041 0 AND
A25 N041 0 0 N040 0 0 CarryOut 0 OR
V§17 N024 0 1
V§27 N027 0 0
A26 N024 0 0 N027 0 0 N025 0 XOR
A27 0 N025 0 Carry5 0 0 Sum6 0 XOR
A28 0 N024 0 N027 0 0 N030 0 AND
A29 0 N025 0 Carry5 0 0 N031 0 AND
A30 N031 0 0 N030 0 0 Carry6 0 OR
V§16 N014 0 1
V§26 N017 0 0
A31 N014 0 0 N017 0 0 N015 0 XOR
A32 0 N015 0 Carry4 0 0 Sum5 0 XOR
A33 0 N014 0 N017 0 0 N020 0 AND
A34 0 N015 0 Carry4 0 0 N021 0 AND
A35 N021 0 0 N020 0 0 Carry5 0 OR
V§15 N003 0 1
V§25 N007 0 0
A36 N003 0 0 N007 0 0 N004 0 XOR
A37 0 N004 0 Carry3 0 0 Sum4 0 XOR
A38 0 N003 0 N007 0 0 N010 0 AND
A39 0 N004 0 Carry3 0 0 N011 0 AND
A40 N011 0 0 N010 0 0 Carry4 0 OR
.tran 0 80m 0 10u
.backanno
.end
